US07897631B2
4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride (0.115 g, 0.620 mmol) was reacted with (3-azido-propenyl)-benzene (0.119 g, 0.748 mmol) following the general procedure for click reactions outlined above to produce 4-{3-[1-(3-Phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-propyl}-1Himidazol-2-ylamine hydrochloride (0.082 g, 43%) as a pale yellow solid. 1H NMR (300 MHz, CDCl3) δ 7.34-7.24 (m, 6H), δ 6.67 (d, 1H), δ 6.34 (q, 1H), δ 6.25 (s, 1H), δ 5.08 (d, 2H), δ 2.72 (t, 2H), δ 2.47 (t, 2H), δ 1.91 (m, 2H) ppm; 13C (75 MHz, CD3OD) 149.1, 137.9, 133.5, 129.5, 128.9, 128.7, 128.3, 128.2, 127.7, 126.8, 54.8, 48.9, 31.3, 29.6, 27.5 ppm; HRMS (ESI) calcd for C17H21N6 (M+) 308.1822. found 308.1821.

reactant | 4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.620 mmol, 0.115 g | Cl.C(CCC#C)C=1N=C(NC1)N
reactant | (3-azido-propenyl)-benzene | 0.748 mmol, 0.119 g | N(=[N+]=[N-])CC=CC1=CC=CC=C1 | C9H9N3
product | 4-{3-[1-(3-Phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-propyl}-1Himidazol-2-ylamine hydrochloride | 0.082 g, 43% | Cl.C1(=CC=CC=C1)C=CCN1N=NC(=C1)CCCC=1N=C(NC1)N | InChI=1S/C17H20N6.ClH/c18-17-19-12-15(20-17)9-4-10-16-13-23(22-21-16)11-5-8-14-6-2-1-3-7-14;/h1-3,5-8,12-13H,4,9-11H2,(H3,18,19,20);1H
